US07897594B2
Production of 1-(3-(2-(1-benzothiophene-5-yl)ethoxy)propyl)-N,N-dimethyl-3-pyrrolidinamine dihydrochloride
0.39 g of 1-(3-(2-(1-benzothiophene-5-yl)ethoxy)propyl)-N,N-dimethyl-3-pyrrolidinamine was dissolved in 4.0 ml of ethyl acetate. Thereafter, 0.80 ml of an ethyl acetate solution containing 3.25 mol/l dry hydrogen chloride was added to the obtained solution, and the mixture was stirred at a room temperature for 1 hour and then at 5° C. for 1 hour. Thereafter, precipitated crystals were collected by filtration. The crystals were washed with ethyl acetate and then dried, so as to obtain 0.32 g of an achromatic crystal, 1-(3-(2-(1-benzothiophene-5-yl)ethoxy)propyl)-N,N-dimethyl-3-pyrrolidinamine dihydrochloride.

reactant | 1-(3-(2-(1-benzothiophene-5-yl)ethoxy)propyl)-N,N-dimethyl-3-pyrrolidinamine | 0.39 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)N(C)C | C19H28N2OS
reactant | hydrogen chloride | 3.25 mol/l | Cl | ClH
solvent | ethyl acetate | 4.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.80 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-(2-(1-benzothiophene-5-yl)ethoxy)propyl)-N,N-dimethyl-3-pyrrolidinamine dihydrochloride | 0.32 g | Cl.Cl.S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)N(C)C | InChI=1S/C19H28N2OS.2ClH/c1-20(2)18-6-10-21(15-18)9-3-11-22-12-7-16-4-5-19-17(14-16)8-13-23-19;;/h4-5,8,13-14,18H,3,6-7,9-12,15H2,1-2H3;2*1H
